US07915268B2
8-Fluoro-1H-isochromen-4(3H)-one.
8-Fluoro-4-methylene-3,4-dihydro-1H-isochromene (400 mg) was dissolved in a solution of 1:1 MeOH/DCM (50 mL) and 1 mL of pyridine added. The mixture was chilled to −78° C. and ozone was bubbled through the mixture for 40 min. The reaction monitored by TLC. The mixture was purged with nitrogen at −78° C. for 10 min and then treated with PPh3. After concentration, the resulting residue was purified by preparative TLC to offer 300 mg of the title compound.

reactant | 8-Fluoro-4-methylene-3,4-dihydro-1H-isochromene | 400 mg | FC=1C=CC=C2C(COCC12)=C | C10H9FO
reactant | MeOH DCM | 50 mL | CO.C(Cl)Cl
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 8-Fluoro-1H-isochromen-4(3H)-one | FC=1C=CC=C2C(COCC12)=O | C9H7FO2
